US06369273B1
2-Chloro-4-phenylthioaniline
Tetrakis(triphenylphosphine)palladium(0) (0.1 15 g) was added to a deoxygenated mixture of 2-chloro-4-iodoaniline (0.507 g), thiophenol (0.214 ml) and sodium methoxide (0.227 g) in ethanol (20 ml). The mixture was further deoxygenated by evacuation and refilling with argon (3 cycles) then heated under reflux with stirring under argon for 18 hours, cooled, diluted with ether (30 ml) and filtered. Volatile material was removed by evaporation and the residue was purified by chromatography on a silica gel Mega Bond Elut column eluting with 10-15% ethyl acetate/hexane to give the title compound (0.443 g) as a solid. M.p. 59-60° C.; NMR: 5.78 (br s, 2H), 6.8 (t, 1H), 7.04 (m, 2H), 7.15 (m, 2H), 7.2-7.35 (m, 3H); EA: C12H10ClNS requires C, 61.1; H, 4.3; N, 5.9; S, 13.6%; found: C, 60.8; H, 4.4; N, 5.7; S, 13.3%.

reactant | 2-chloro-4-iodoaniline | 0.507 g | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | thiophenol | 0.214 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium methoxide | 0.227 g | C[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-phenylthioaniline | 0.443 g | ClC1=C(N)C=CC(=C1)SC1=CC=CC=C1 | C12H10ClNS
